US20010044436A1
To a solution of tert-butyl 4-(2,4-dichlorophenyl)-2-(methylsulfonyl)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate (100 mg, 0.218 mmol) in dichloromethane (2 ml) was added trifluoroacetic acid (1 ml) with caution. The resulting solution was stirred at room temperature for 2 h, concentrated and dried under high vacuum to give 4-(2,4-dichlorophenyl)-2-(methylsulfonyl)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine in quantitative yield.

reactant | tert-butyl 4-(2,4-dichlorophenyl)-2-(methylsulfonyl)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate | 0.218 mmol, 100 mg | ClC1=C(C=CC(=C1)Cl)C=1C2=C(N=C(N1)S(=O)(=O)C)CCN(C2)C(=O)OC(C)(C)C | C19H21Cl2N3O4S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-(2,4-dichlorophenyl)-2-(methylsulfonyl)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine | quantitative yield | ClC1=C(C=CC(=C1)Cl)C=1C2=C(N=C(N1)S(=O)(=O)C)CCNC2 | C14H13Cl2N3O2S
